US05591695
A solution of ethyl tetrazole-5-carboxylate (8.53 g, 60 mmol) and pivaloyl chloride (7.23 g, 60 mmol) in dry toluene (240 ml) is refluxed for 16 hours. After the solution has cooled to room temperature, it is washed two times with 1 N sodium hydroxide solution (20 ml) and then once with water (20 ml). The organic phase is dried over magnesium sulphate and the solvent is evaporated in vacuo to give ethyl 5-tert-butyl-[1,3,4]oxadiazole-2-carboxylate as a red oil (6.96 g, 59%), which is used in the following stage without further purification.

reactant | ethyl tetrazole-5-carboxylate | 60 mmol, 8.53 g | N1N=NN=C1C(=O)OCC | C4H6N4O2
reactant | pivaloyl chloride | 60 mmol, 7.23 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-tert-butyl-[1,3,4]oxadiazole-2-carboxylate | 6.96 g, 59% | C(C)(C)(C)C1=NN=C(O1)C(=O)OCC | C9H14N2O3
